US07781478B2
1-Ethyl-1H-indole-6-carboxylic acid methyl ester (900 mg, 4.45 mmol) is dissolved in DMF (3.3 mL). This is added dropwise to an ice-cold solution of POCl3 (430 μL, 4.5 mmol) in DMF (1.5 mL). The reaction mixture is stirred at room temperature for 90 minutes. The reaction mixture is then treated with 6N NaOH (3.5 ml). The mixture is then partitioned between H2O and ethyl acetate. Purification by silica gel chromatography (5-10% EtOAc/CH2Cl2) yields 1-ethyl-3-formyl-1H-indole-6-carboxylic acid methyl ester (985 mg, 96%) as a white solid.

reactant | 1-Ethyl-1H-indole-6-carboxylic acid methyl ester | 4.45 mmol, 900 mg | COC(=O)C1=CC=C2C=CN(C2=C1)CC | C12H13NO2
reactant | POCl3 | 4.5 mmol, 430 μL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 6N, 3.5 ml | [OH-].[Na+]
reactant | DMF | 3.3 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-3-formyl-1H-indole-6-carboxylic acid methyl ester | 985 mg, 96% | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C=O | C13H13NO3
